US07842685B2
Synthesis of (3S)-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-3-hydroxy-4-oxobutanoic acid
(3S)-3-Acetoxy-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-4-oxobutanoic acid (65 mg, 0.125 mmol) was dissolved in THF (1.3 mL) before 0.1 N sodium hydroxide (3.75 ml, 0.375 mmol) was added and stirred at ambient temperature for 24 h; the reaction had not gone to completion, so more NaOH was added and stirred for another 4 h. The reaction mixture was concentrated to remove the THF, acidified with 2 N HCl to crash out the product, filtered, washed with water, and dried in a vacuum oven to give the title compound. MS (ESI) m/z: Calculated: 477.1; Observed: 477.7 (M++H).

reactant | (3S)-3-Acetoxy-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-4-oxobutanoic acid | 0.125 mmol, 65 mg | C(C)(=O)O[C@@H](CC(=O)O)C(=O)NC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C27H22FN3O5S
reactant | sodium hydroxide | 0.375 mmol, 0.1 N, 3.75 ml | [OH-].[Na+]
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | (3S)-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-3-hydroxy-4-oxobutanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NC([C@H](CC(=O)O)O)=O | C25H20FN3O4S
